US09227976B2
Step 7: 4-Chloro-1-[2-[(3S)-3-fluoropyrrolidin-1-yl]ethyl]-3,5-diphenyl-pyrazolo[3,4-c]pyridazine (Compound IIt)
A solution of 4-chloro-1-(2-iodoethyl)-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine (90 mg, 0.2 mmol) in dry CH2Cl2 (2 mL) was added to (S)-3-fluoropyrrolidine hydrochloride (126 mg, 1 mmol), DIPEA (0.21 mL, 1.2 mmol) was added and the reaction stirred for 2 days. Further CH2Cl2 (3 mL), (S)-3-fluoropyrrolidine hydrochloride (126 mg, 1 mmol) and DIPEA (0.21 mL, 1.2 mmol) was added and the reaction stirred for an additional 7 days. The resultant residue was purified using chromatography (silica gel, gradient 20 to 100% ethyl acetate/isohexane), followed by preparative HPLC to provide Compound IIt as a white solid (25 mg).

reactant | 4-chloro-1-(2-iodoethyl)-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | 0.2 mmol, 90 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCI | C19H14ClIN4
reactant | (S)-3-fluoropyrrolidine hydrochloride | 1 mmol, 126 mg | Cl.F[C@@H]1CNCC1
reactant | DIPEA | 1.2 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-fluoropyrrolidine hydrochloride | 1 mmol, 126 mg | Cl.F[C@@H]1CNCC1
reactant | DIPEA | 1.2 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-1-[2-[(3S)-3-fluoropyrrolidin-1-yl]ethyl]-3,5-diphenyl-pyrazolo[3,4-c]pyridazine | 25 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCN2C[C@H](CC2)F | C23H21ClFN5
